US05599966
24. 2-Phenoxyethyl6-[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamino]hexanoate
According to method I (dimethylformamide, 1 hour at 100° C.) from (2-phenoxyethyl)6-bromohexanoate and 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol. Working up by means of chromatography (ethyl acetate/methanol/triethylamine 16:2:1). Recrystallized as the base from diethyl ether. Melting point: 46°-47° C.

reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | (2-phenoxyethyl)6-bromohexanoate | O(C1=CC=CC=C1)CCOC(CCCCCBr)=O | C14H19BrO3
reactant | 2-amino-1-(4-amino-3,5-dichlorophenyl)ethanol | NCC(O)C1=CC(=C(C(=C1)Cl)N)Cl | C8H10Cl2N2O
solvent | ethyl acetate methanol triethylamine | C(C)(=O)OCC.CO.C(C)N(CC)CC
product | 2-Phenoxyethyl6-[2-(4-amino-3,5-dichlorophenyl)-2-hydroxyethylamino]hexanoate | O(C1=CC=CC=C1)CCOC(CCCCCNCC(O)C1=CC(=C(C(=C1)Cl)N)Cl)=O | C22H28Cl2N2O4
